US05294612
To concentrated sulfuric acid (50 ml) cooled in an ice/sodium chloride bath was added in small portions 1-cyclopentyl-3-ethyl-4-cyano-5-amino-1H-pyrazole. The reaction mixture was warmed to room temperature and stirred for 24 hours. The reaction mixture was slowly added to a solution of concentrated ammonium hydroxide (150 ml) in ice-water (500 ml). A yellow precipitate formed which was collected by filtration, washed with water and dried at 90° C. for 60 hours in high vacuum to afford 3.47 g (85%) of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide, m.p. 167°-168° C.

reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-cyclopentyl-3-ethyl-4-cyano-5-amino-1H-pyrazole | C1(CCCC1)N1N=C(C(=C1N)C#N)CC | C11H16N4
solvent | ammonium hydroxide | 150 ml | [OH-].[NH4+]
product | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 3.47 g, 85% | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
